US09079866B2
Step A: Ethyl 3-(4′-(2-aminopyrimidin-5-yl)-5′-fluorobiphenyl-2-ylthio)propanoate
A mixture of ethyl 3-((2-bromophenyl)thio)propanoate (5.8 g, 20 mmol), 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine (6.95 g, 22.1 mmol), Pd(dppf)Cl2.CH2Cl2 (1.7 g, 2.0 mmol), Na2CO3 (4.25 g, 40.1 mmol) and 1,4-dioxane/water (80 mL/10 mL) was stirred at 90° C. overnight under N2. The reaction mixture was cooled to rt, filtered, and the filtrate concentrated to dryness. The resultant residue was subjected to FCC to give the title compound (6.5 g, 82%). MS (ESI): mass calcd. for C21H20FN3O2S, 397.13; m/z found, 397.9 [M+H]+.

reactant | ethyl 3-((2-bromophenyl)thio)propanoate | 20 mmol, 5.8 g | BrC1=C(C=CC=C1)SCCC(=O)OCC | C11H13BrO2S
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | 22.1 mmol, 6.95 g | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | CH2Cl2 | 2.0 mmol, 1.7 g | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 40.1 mmol, 4.25 g | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-dioxane water | 80 mL | O1CCOCC1.O
product | Ethyl 3-(4′-(2-aminopyrimidin-5-yl)-5′-fluorobiphenyl-2-ylthio)propanoate | 6.5 g, 82% | NC1=NC=C(C=N1)C1=CC=C(C=C1F)C1=C(C=CC=C1)SCCC(=O)OCC | C21H20FN3O2S
